US09216999B2
4-(Cyclohexylamino)-1-{[2-(trimethylsilyl)ethoxy]methyl}-1H-pyrrolo[2,3-b]pyridine-5-carboxamide
4-(Cyclohexylamino)-1-{[2-(trimethylsilyl)ethoxy]methyl}-1H-pyrrolo[2,3-b]pyridine-5-carboxylic acid (100 mg, 0.257 mmol) in dichloromethane (2 mL) was stirred with 1-(3-dimethylaminopropyl)-3-ethylcarbodiimide hydrochloride (10 mg, 0.052 mmol), N-hydroxybenzotriazole (50 mg, 0.37 mmol) and 7 M ammonia-methanol solution (0.2 mL, 1.4 mmol) at room temperature for one day. After addition of saturated aqueous ammonium chloride, the reaction mixture was extracted with chloroform, and the organic layer was dried over anhydrous sodium sulfate and concentrated under reduced pressure. The residue was purified by silica gel column chromatography (hexane/ethyl acetate=1/1→0/1 (v/v)) to give the title compound as a pale yellow amorphous (71.1 mg, yield 71%).

reactant | 4-(Cyclohexylamino)-1-{[2-(trimethylsilyl)ethoxy]methyl}-1H-pyrrolo[2,3-b]pyridine-5-carboxylic acid | 0.257 mmol, 100 mg | C1(CCCCC1)NC1=C2C(=NC=C1C(=O)O)N(C=C2)COCC[Si](C)(C)C | C20H31N3O3Si
reactant | 1-(3-dimethylaminopropyl)-3-ethylcarbodiimide hydrochloride | 0.052 mmol, 10 mg | Cl.CN(CCCN=C=NCC)C
reactant | N-hydroxybenzotriazole | 0.37 mmol, 50 mg | ON1N=NC2=C1C=CC=C2 | C6H5N3O
reactant | ammonia methanol | 1.4 mmol, 7 M, 0.2 mL | N.CO
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | dichloromethane | 2 mL | ClCCl | CH2Cl2
product | 4-(Cyclohexylamino)-1-{[2-(trimethylsilyl)ethoxy]methyl}-1H-pyrrolo[2,3-b]pyridine-5-carboxamide | yield 71% | C1(CCCCC1)NC1=C2C(=NC=C1C(=O)N)N(C=C2)COCC[Si](C)(C)C | C20H32N4O2Si
